* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7027
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7027 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1 +IN1 -IN1 V+ V- OUT1 NJU7027_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU7027_s
.ends NJU7027
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | |
*                      | | | | output
*                      | | | | |
.subckt NJU7027_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
M1 11 2 13 13 NMOS1
M2 12 NET1 14 14 NMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 3 11 {RD1}
RD2 3 12 {RD2}
RS2 14 10 {RS2}
RS1 13 10 {RS1}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED= 25 IS= 1.18E-32)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL NMOS1 NMOS(LEVEL=1 VTO= 4.89E-01
+ KP= 1.78E-04 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 6.70E+02)
.MODEL NMOS2 NMOS(LEVEL=1 VTO= 4.89E-01
+ KP= 1.78E-04 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 6.70E+02)
*
.PARAM
+ C1=	3.04E-12
+ C2=	3.67E-11
+ CS=	7.07E-12
+ GCM=	3.69E-09
+ GA=	3.69E-05
+ GB=	343.15
+ GC=	3772.690908
+ ITL=	2.20E-06
+ RS=	9.09E+07
+ RD1=	27128.68
+ RD2=	27128.68
+ RC=	2.65E-04
+ RS1=	14079.74
+ RS2=	14079.74
+ RO1=	50
+ RO2=	25
+ RP=	4.63E+05
+ VD=	0.85816
+ VS=	0.8581825
+ VOS=	6.24283E-04
+ VRD=	2.50E-01
+ L_VAL=4.00E-06
+ W_VAL=0.60E-04

.ends NJU7027_s
*$
